US07842685B2
A slurry of 3-amino-6-(1-phenylcyclopropyl)pyridine-2(1H)-thione (1.00 g, 4.13 mmol) and methyl 4-(chlorocarbonyl)-3-nitrobenzoate (1.11 g, 4.54 mmol) in 10 mL toluene was heated under nitrogen with a water cooled reflux condenser was heated in a 120° C. oil bath. After bubbling had subsided, ((1S,4R)-7,7-dimethyl-2-oxobicyclo[2.2.1]heptan-1-yl)methanesulfonic acid (0.479 g, 2.06 mmol) was added through the condenser and heating continued for 30 min. The slurry was treated with 5 mL toluene to and heating continued overnight to give a dark brown solution. The reaction mixture was cooled to ambient temperature, then diluted with EtOAc, washed with water, sat'd aq. Bicarbonate, and brine. The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo to give a brown oil. Purification by silica gel chromatography, 40 g, 0-30% EA/hexanes gave methyl 3-nitro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)benzoate as a light brown solid. MS (ESI) m/z: Calculated: 431.1; Observed: 432.0 (M++1).

reactant | 3-amino-6-(1-phenylcyclopropyl)pyridine-2(1H)-thione | 4.13 mmol, 1.00 g | NC=1C(NC(=CC1)C1(CC1)C1=CC=CC=C1)=S | C14H14N2S
reactant | methyl 4-(chlorocarbonyl)-3-nitrobenzoate | 4.54 mmol, 1.11 g | ClC(=O)C1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C9H6ClNO5
reactant | water | O | H2O
reactant | ((1S,4R)-7,7-dimethyl-2-oxobicyclo[2.2.1]heptan-1-yl)methanesulfonic acid | 2.06 mmol, 0.479 g | CC1([C@@]2(C(C[C@H]1CC2)=O)CS(=O)(=O)O)C | C10H16O4S
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 3-nitro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)benzoate | [N+](=O)([O-])C=1C=C(C(=O)OC)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C23H17N3O4S
